US09120777B2
E) Methyl 4-cyclobutyl-5-cyclopropyl-2-ethoxybenzoate
Cesium carbonate (3.44 g) and iodoethane (0.55 mL) were added to a DMF (25 mL) solution of methyl 4-cyclobutyl-5-cyclopropyl-2-hydroxybenzoate (1.3 g) under ice cooling, and the mixture was stirred overnight at room temperature. The reaction mixture was diluted with water, followed by extraction with ethyl acetate twice. Combined organic layers were washed with water and saturated saline in this order and dried over anhydrous sodium sulfate, and then, the solvent was distilled off under reduced pressure to obtain the title compound (1.2 g).

reactant | Cesium carbonate | 3.44 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodoethane | 0.55 mL | ICC | C2H5I
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
reactant | methyl 4-cyclobutyl-5-cyclopropyl-2-hydroxybenzoate | 1.3 g | C1(CCC1)C1=CC(=C(C(=O)OC)C=C1C1CC1)O | C15H18O3
solvent | water | O | H2O
product | Methyl 4-cyclobutyl-5-cyclopropyl-2-ethoxybenzoate | 1.2 g | C1(CCC1)C1=CC(=C(C(=O)OC)C=C1C1CC1)OCC | C17H22O3
